US05312961
2-amino-7-(ethoxycarbonylbutan-4-yloxy)tetralin hydrochloride
A solution of 2-benzylamino-7-(ethoxycarbonylbutan-4-yloxy)tetralin hydrochloride (10.7 g), prepared as described in Example 5, in 95% ethanol (250 ml) and water (25 ml) is hydrogenated at 60° C. and atmospheric pressure using 10% Pd/C (1.2 g) as the hydrogenation catalyst. After 6 hours the catalyst is filtered off, the filtrate is concentrated and the residue is taken up in absolute ethanol and concentrated to dryness a few times. The obtained product is then triturated with ethyl ether and filtered. The residue is crystallized from isopropanol yielding 8 g of the compound indicated in the title. M.p. 131°-133° C.

reactant | 2-benzylamino-7-(ethoxycarbonylbutan-4-yloxy)tetralin hydrochloride | 10.7 g | Cl.C(C1=CC=CC=C1)NC1CC2=CC(=CC=C2CC1)OC(CCC)C(=O)OCC
reactant | water | 25 ml | O | H2O
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | Pd/C | 1.2 g | [Pd] | Pd
product | 2-amino-7-(ethoxycarbonylbutan-4-yloxy)tetralin hydrochloride | Cl.NC1CC2=CC(=CC=C2CC1)OC(CCC)C(=O)OCC | InChI=1S/C17H25NO3.ClH/c1-3-5-16(17(19)20-4-2)21-15-9-7-12-6-8-14(18)10-13(12)11-15;/h7,9,11,14,16H,3-6,8,10,18H2,1-2H3;1H
